US07566803B2
D. Enantiomer 1 of 5-(4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzyl)-thiazolidine-2,4-dione
To a mixture of enantiomer 1 of 5-(4-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzylidene)-thiazolidine-2,4-dione (0.35 g, 0.71 mmol) and MeOH (10 mL) is added Mg (0.17 g, 7.1 mmol). The solution is heated at a reflux for 4 hours. The solution is filtered thru Celite®, rinsed with MeOH (2 mL), and the solution concentrated. The residue is purified by ISCO (15%-30% EtOAc gradient) to furnish the title compound (0.13 g, 0.26 mmol, 37%).

reactant | 5-(4-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzylidene)-thiazolidine-2,4-dione | 0.71 mmol, 0.35 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C=C2C(NC(S2)=O)=O)C=C1)C | C29H37NO4S
solvent | MeOH | 10 mL | CO | CH4O
product | 5-(4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzyl)-thiazolidine-2,4-dione | 0.26 mmol, 0.13 g, 37% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(CC2C(NC(S2)=O)=O)C=C1)C | C29H39NO4S
